US05192785
Sulfamic acid 3-phenoxy-2-propyl ester
The title compound was prepared by procedures of Example 22 from sulfamoyl chloride and 3-phenoxy-2-propanol through the partitioning and final evaporation to give an oil as residue. The oil was purified by chromatography using a 4.5 cm×100 cm glass column packed with 500 g of silica gel and methylene chloride as eluting agent. Fractions containing the title compound were combined and the solvent was evaporated under reduced pressure to give a 37% yield of an oil which solidified on standing, mp 57°-60° C.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 3-phenoxy-2-propanol | O(C1=CC=CC=C1)CC(C)O | C9H12O2
product | Sulfamic acid 3-phenoxy-2-propyl ester | O(C1=CC=CC=C1)CC(C)OS(N)(=O)=O | C9H13NO4S
